US08309546B2
5-{8-[(3R)-4-Acetyl-3-methylpiperazin-1-yl]-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl}pyrimidin-2-amine
(2R)-2-Methylpiperazine (241 mg, 2.41 mmol) and N-methyl-2-pyrrolidone (2 ml) were added to 5-[8-chloro-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl]pyrimidin-2-amine (200 mg, 0.48 mmol) and the resulting mixture was stirred at 100° C. for 2 hours. The reaction mixture was partitioned with chloroform and water, the organic layer was dried over magnesium sulfate, and the solvent was concentrated under reduced pressure. Acetic anhydride (68 μl) and triethylamine (200 μl) were added to the residue with ice cooling and the resulting mixture was stirred for 1 hour and partitioned with ethyl acetate and saturated aqueous sodium bicarbonate solution. The organic layer was dried over magnesium sulfate, then the solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (chloroform:methanol=20:1) to give the title compound (127 mg, 52%) as a colorless solid.

reactant | (2R)-2-Methylpiperazine | 2.41 mmol, 241 mg | C[C@H]1NCCNC1 | C5H12N2
reactant | 5-[8-chloro-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl]pyrimidin-2-amine | 0.48 mmol, 200 mg | ClC=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC(F)(F)F | C15H14ClF3N8O
reactant | N-methyl-2-pyrrolidone | 2 ml | CN1C(CCC1)=O | C5H9NO
product | 5-{8-[(3R)-4-Acetyl-3-methylpiperazin-1-yl]-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl}pyrimidin-2-amine | 127 mg, 52% | C(C)(=O)N1[C@@H](CN(CC1)C=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC(F)(F)F)C | C22H27F3N10O2
